US05854275
To a solution of diisopropylamine (2.9 mL, 20.8 mmol) in dry tetrahydrofuran (50 mL) at -50° C. was added a 2.5M solution of n-butyllithium in hexane (8.4 mL, 21 mmol). The mixture was stirred at a temperature from -30° C. to 0° C. over 30 minutes and then cooled again to -40° C. A solution of cyclopentanecarboxylic acid (1.1 mL, 10.1 mmol) in tetrahydrofuran (20 mL) was added and the resulting mixture was allowed to warm to room temperature with stirring over 2 hours. The reaction was cooled to -79° C. and a solution of 2-(2-benzyloxyethyl) acrylic acid tert-butyl ester (2.6 g, 9.9 mmol) in dry tetrahydrofuran (10 mL) was added dropwise; stirring was continued at -40° C. for 2 hours. The mixture was quenched by the addition of 0.5M HCl solution and was extracted with ether. The extract was washed with brine, dried over MgSO4 and evaporated under vacuum to leave an oil from which 1-(4-benzyloxy-2-tert-butoxycarbonylbutyl)cyclopentane carboxylic acid, 2.9 g (78%), was isolated by chromatography on silica gel eluting with methylene chloride and then 1% methanol in methylene chloride.

reactant | diisopropylamine | 20.8 mmol, 2.9 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 21 mmol, 8.4 mL | CCCCCC | C6H14
reactant | cyclopentanecarboxylic acid | 10.1 mmol, 1.1 mL | C1(CCCC1)C(=O)O | C6H10O2
reactant | 2-(2-benzyloxyethyl) acrylic acid tert-butyl ester | 9.9 mmol, 2.6 g | C(C)(C)(C)OC(C(=C)CCOCC1=CC=CC=C1)=O | C16H22O3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(4-benzyloxy-2-tert-butoxycarbonylbutyl)cyclopentane carboxylic acid | C(C1=CC=CC=C1)OCCC(CC1(CCCC1)C(=O)O)C(=O)OC(C)(C)C | C22H32O5
